US06002008
4-(5-Chloro-2-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 15 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 172.3 mg (1.2 mmol) of 2-amino-chlorophenol to give 326.4 mg (91.9%) of the product as a yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 355.8.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 2-amino-chlorophenol | 1.2 mmol, 172.3 mg | NC1=C(C=CC=C1Cl)O | C6H6ClNO
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(5-Chloro-2-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 326.4 mg, 91.9% | ClC=1C=CC(=C(C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)O | C18H14ClN3O3
